US06603005B2
A mixture of 0.12 g of ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-yloxy)-ethyl]piperidine-4-carboxylate in 5 cm3 of dioxane, 5 cm3 of methanol and 1 cm3 of aqueous 5N sodium hydroxide solution was stirred at a temperature in the region of 70° C. for 21 hours. After cooling to about 20° C., the reaction mass was concentrated to dryness under reduced pressure (5 kPa) at a temperature in the region of 60° C. The residue was taken up in 5 cm3 of a dichloromethane/methanol/aqueous ammonia mixture (40/5/0.5 by volume) and then purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 70-200μ; diameter 1.5 cm; mass 20 g), eluting with a dichloromethane/methanol/aqueous ammonia mixture (40/5/0.5 by volume). The fractions containing the product were combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The foam was taken up in 2 cm3 of methanol, filtered, washed with 1 cm3 of methanol and 2 cm3 of diethyl ether and then oven-dried under reduced pressure (10 kPa) at about 50° C. 0.115 g of 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-yloxy)ethyl]piperidine-4-carboxylic acid was obtained in the form of a white solid melting at about 70° C. and becoming sticky.

reactant | ethyl 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-yloxy)-ethyl]piperidine-4-carboxylate | 0.12 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=NC=CC=C1)C(=O)OCC)OC | C28H34ClN3O4
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | methanol | 5 cm3 | CO | CH4O
product | 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-[2-(pyridin-2-yloxy)ethyl]piperidine-4-carboxylic acid | 0.115 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCOC1=NC=CC=C1)C(=O)O)OC | C26H30ClN3O4
